* Ngspice тест: OUT (порт-интерфейс из KiCad)




.INCLUDE spice/OUT.sub
.model MyD D(IS=4.35e-9 RS=0.64 BV=110)
.model TVS24 D(IS=4.35e-9 RS=0.64 BV=8)
.model TVS5 D(IS=4.35e-9 RS=0.64 BV=5.6)
.model SW_GP SW(Ron=0.1 Roff=1Meg Vt=1.5 Vh=0.5)

* Порты: AC_BASE AC_CTL AC_PNP_BASE AC_REQ AC_REQ_OUT FAN_GATE FAN_PWM_CTL FAN_PWM_NODE FAN_PWM_OUT GND VCC_12V
XOUT AC_BASE AC_CTL AC_PNP_BASE AC_REQ AC_REQ_OUT FAN_GATE FAN_PWM_CTL FAN_PWM_NODE FAN_PWM_OUT 0 VCC_12V OUT

VS VCC_12V 0 DC 14.4
V1 FAN_PWM_CTL 0 DC 3.3
.op
* PASS: FAN_PWM_OUT низкий (ключ открыт)
.control
op
print V(FAN_PWM_OUT)
run
.endc
.end
